US09212168B2
(a) 4-Bromo-2-chloro-5-trifluoromethoxy-phenylamine
To a mixture of 4-bromo-3-trifluoromethoxy-phenylamine (2.0 g, 7.8 mmol) in ACN (60 mL) was slowly added a solution of N-chlorosuccinimide (1.0 g, 7.8 mmol) in ACN (40 mL). The reaction mixture was heated at 60° C. overnight and extracted with ethyl acetate/water. The organic layer was dried over sodium sulfate and purified by flash chromatography (40 g column, 100% hexanes to 10% EtOAc:hexanes) to produce the desired product as an orange-ish colored oil (1.4 g, 64% yield).

reactant | 4-bromo-3-trifluoromethoxy-phenylamine | 7.8 mmol, 2.0 g | BrC1=C(C=C(C=C1)N)OC(F)(F)F | C7H5BrF3NO
reactant | N-chlorosuccinimide | 7.8 mmol, 1.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ACN | 60 mL | C(C)#N | C2H3N
solvent | ACN | 40 mL | C(C)#N | C2H3N
product | 4-Bromo-2-chloro-5-trifluoromethoxy-phenylamine | 1.4 g, 64% yield | BrC1=CC(=C(C=C1OC(F)(F)F)N)Cl | C7H4BrClF3NO
